US07329656B2
A mixture of 4-(4-chlorophenylthio)benzaldehyde (3.63 mmol, 900 mg), 3-chloroperoxybenzoic acid (max 77%, 3.63 mmol, 813 mg) and CH2Cl2 (5.00 mL), was stirred at room temperature for 60 min and poured into a separatory funnel with 5% aqueous KOH solution (10 mL). The phases were separated and the aqueous layer was extracted with CH2Cl2 (3×10 mL) and the combined organic extracts were washed with water (10 mL), brine (50 mL) and dried over MgSO4. Removal of solvents in vacuo gave a light yellow liquid. Purification by flash column chromatography (eluent: 5% EtOAc in Hexane) provided 4-[(4-chlorophenyl)sulfinyl]benzaldehyde (500 mg, 52.2% yield) as a light yellow solid. 1H NMR (CDCl3) δ 10.04 (s, 1H), 7.98 (d, J=8.2 Hz, 2H), 7.82 (d, J=8.2 Hz, 2H), 7.62 (d, J=8.5 Hz, 2H), 7.46 (d, J=8.5 Hz, 2H).

reactant | 4-(4-chlorophenylthio)benzaldehyde | 3.63 mmol, 900 mg | ClC1=CC=C(C=C1)SC1=CC=C(C=O)C=C1 | C13H9ClOS
reactant | 3-chloroperoxybenzoic acid | 3.63 mmol, 813 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | KOH | 10 mL | [OH-].[K+]
solvent | CH2Cl2 | 5.00 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4-chlorophenyl)sulfinyl]benzaldehyde | 500 mg, 52.2% yield | ClC1=CC=C(C=C1)S(=O)C1=CC=C(C=O)C=C1 | C13H9ClO2S
